US07169890B2
Compound 40a: 2-Ethyl-hexanoic Acid
To a solution of 2-ethyl hexanol (8.7 mmol) in CH2Cl2 (10 ml), RuCl3H2O (0.014 mmol) and tetra butyl ammonium bromide (0.2 mmol) were added. The mixture was heated at 40° C. and 30% H2O2 (v/v) (3 ml) was added dropwise. After 1 hours the reaction was complete. Water is added, the organic phase was separated, dried over sodium sulphate and evaporated under reduced pressure to give the crude product of the title that was purified by flash chromatography (pure CH2Cl2) obtaining 0.8 g of the desired product. Yield 65%.

reactant | 2-ethyl hexanol | 8.7 mmol | C(C)C(CO)CCCC | C8H18O
reactant | H2O2 | 3 ml | OO | H2O2
reactant | Water | O | H2O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | tetra butyl ammonium bromide | 0.2 mmol | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-Ethyl-hexanoic Acid | 0.8 g, Yield 65% | C(C)C(C(=O)O)CCCC | C8H16O2
